US08431525B2
Under an argon atmosphere, 3-benzyl-5-(4-methoxyphenyl)-2-[(4-methoxyphenyl)acetylamino]pyrazine (c-43) (prepared by the method described in Inouye, S. & Hosoya, T., Biochem. Biophys. Res. Commun., 386, 617-622 (2009)) (1.00 g, 2.28 mmol) was suspended in anhydrous toluene (30 mL) and to this was added Lawesson's reagent (552 mg, 1.37 mmol) while stirring at room temperature, and then heated to reflux for 17 h. After refluxing, it was cooled to room temperature, and concentrated under reduced pressure with a rotary evaporator. The residue was purified by silica gel column chromatography (100 g, dichloromethane/ethyl acetate=49/1) to give 3-benzyl-5-(4-methoxyphenyl)-2-[(4-methoxyphenyl)thioacetylamino]pyrazine (c-44) as a yellow oily substance (823 mg, 79.4%). Rf=0.43 (dichloromethane/ethyl acetate=19/1). 1H NMR (400 MHz, DMSO-d6) δ 2.84 (s, 3H), 3.82 (s, 3H), 3.92 (s, 2H), 4.07 (s, 2H), 6.90-6.96 (AA′BB′, 2H), 6.98-7.04 (AA′BB′, 2H), 7.05-7.11 (AA′BB′, 2H), 7.13-7.26 (m, 3H), 7.38-7.50 (m, 2H), 8.06-8.11 (AA′BB′, 2H), 8.99 (s, 1H), 12.12 (s, 1H). 13C NMR (67.8 MHz, DMSO-d6) δ 39.3, 50.8, 55.0, 55.3, 113.8 (2C), 114.5 (2C), 126.3, 127.6, 128.18 (2C), 128.21 (2C), 128.8, 128.9 (2C), 130.0 (2C), 137.8, 138.0, 145.0, 149.6, 152.1, 158.4, 160.8, 205.1. IR (KBr, cm−1) 704, 835, 1030, 1113, 1175, 1250, 1292, 1304, 1319, 1371, 1422, 1439, 1493, 1510, 1607, 2835, 2932, 2957, 3150. HRMS (ESI+) m/z 456.1747 ((M+H)+, C27H26N3O2S+ requires 456.1740).

reactant | 3-benzyl-5-(4-methoxyphenyl)-2-[(4-methoxyphenyl)acetylamino]pyrazine | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)OC)NC(CC1=CC=C(C=C1)OC)=O | C27H25N3O3
reactant | Lawesson's reagent | 1.37 mmol, 552 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-benzyl-5-(4-methoxyphenyl)-2-[(4-methoxyphenyl)thioacetylamino]pyrazine | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)OC)NC(CC1=CC=C(C=C1)OC)=S | C27H25N3O2S
